US04523014
1-Hexyl-4-(2-Ketohexyl)piperazine 2HCl
A solution of 8.5 g (0.07 mole) of 1-chloro-2-hexanone in 25 ml of ether was added dropwise to a mixture of 8.5 g (0.05 mole) of a n-hexyl piperazine and 10 g (0.1 mole) of triethylamine in 50 ml of ether. Addition was completed in 1 hour and the reaction mixture was stirred for 48 hours. The reaction mixture was filtered and the solvent was removed. The residue was dissolved in water, basified with 50% NaOH and extracted into toluene. The toluene was evaporated and the residue was treated with a saturated solution of HCl in isopropanol. The salt was filtered and crystallized twice from isopropanol to yield 6.2 g with a melting point of 190°-192° C.

reactant | 1-chloro-2-hexanone | 0.07 mole, 8.5 g | ClCC(CCCC)=O | C6H11ClO
reactant | n-hexyl piperazine | 0.05 mole, 8.5 g | C(CCCCC)N1CCNCC1 | C10H22N2
reactant | triethylamine | 0.1 mole, 10 g | C(C)N(CC)CC | C6H15N
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-Hexyl-4-(2-Ketohexyl)piperazine 2HCl | Cl.Cl.C(CCCCC)N1CCN(CC1)CC(CCCC)=O | InChI=1S/C16H32N2O.2ClH/c1-3-5-7-8-10-17-11-13-18(14-12-17)15-16(19)9-6-4-2;;/h3-15H2,1-2H3;2*1H
